US05166436
Hydroxylamine hydrochloride is added to a base such as sodium carbonate, potassium bicarbonate or sodium or potassium hydroxide in a non-reactive solvent such as water, dichloromethane or dioxane, then treated with di-t-butyl dicarbonate added over a period of 30 minutes to 6 hours at 10° to 60° C. Unexpectedly, N,O-bis-BOC-hydroxylamine is isolated. This is unexpected because the literature suggests that the N,O-bis product is only available when the hydroxylamine hydrochloride is reacted with t-butyl azidoformate.

reactant | Hydroxylamine hydrochloride | Cl.NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | sodium | [Na] | Na
reactant | potassium hydroxide | [OH-].[K+]
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N,O-bis-BOC-hydroxylamine | C(=O)(OC(C)(C)C)NOC(=O)OC(C)(C)C | C10H19NO5
